US07754882B2
Cis-4-[8-(3-Piperidin-1-yl-propoxy)-1,2,3,5,6,10b-hexahydro-pyrrolo[2,1-a]isoquinolin-6-yl]-benzonitrile
Cis-6-(4-Bromo-phenyl)-8-(3-piperidin-1-yl-propoxy)-1,5,6,10b-tetrahydro-2H-pyrrolo[2,1-a]isoquinolin-3-one. Prepared as described in Example 42, Step 13, on a 1.23 mmol scale to yield 308.1 mg of a mixture of the desired product and cis-6-phenyl-8-(3-piperidin-1-yl-propoxy)-1,5,6,10b-tetrahydro-2H-pyrrolo[2,1-a]isoquinolin-3-one.

reactant | Cis-6-(4-Bromo-phenyl)-8-(3-piperidin-1-yl-propoxy)-1,5,6,10b-tetrahydro-2H-pyrrolo[2,1-a]isoquinolin-3-one | BrC1=CC=C(C=C1)[C@@H]1CN2[C@H](C3=CC=C(C=C13)OCCCN1CCCCC1)CCC2=O | C26H31BrN2O2
reactant | cis-6-phenyl-8-(3-piperidin-1-yl-propoxy)-1,5,6,10b-tetrahydro-2H-pyrrolo[2,1-a]isoquinolin-3-one | C1(=CC=CC=C1)[C@@H]1CN2[C@H](C3=CC=C(C=C13)OCCCN1CCCCC1)CCC2=O | C26H32N2O2
product | Cis-4-[8-(3-Piperidin-1-yl-propoxy)-1,2,3,5,6,10b-hexahydro-pyrrolo[2,1-a]isoquinolin-6-yl]-benzonitrile | N1(CCCCC1)CCCOC=1C=C2[C@@H](CN3[C@H](C2=CC1)CCC3)C3=CC=C(C#N)C=C3 | C27H33N3O
